2109-11-24 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CARDIAC CATH - At [**2109-11-24**] 04:00 AM
 SHEATH - START [**2109-11-24**] 05:15 AM
   - hypotensive o/n, noted swollen eyes with conjunctival hemorrhage.
   - given bolus of 1L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Eptifibatide (Integrilin) - 2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-24**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 105 (99 - 105) bpm
   BP: 74/40(76) {74/40(63) - 90/65(76)} mmHg
   RR: 25 (22 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
             1,353 mL
   PO:
             TF:
   IVF:
   1,353 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,353 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   GENERAL: WDWN, in NAD. disoriented.
   HEENT: NCAT, bloody sclera. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: Supple with JVP of 8 cm.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ PT 2+
   Labs / Radiology
   272 K/uL
   13.7 g/dL
   124 mg/dL
   1.2 mg/dL
   22 mEq/L
   4.2 mEq/L
   14 mg/dL
   107 mEq/L
   141 mEq/L
   39.3 %
   19.0 K/uL
        [image002.jpg]
                            [**2109-11-24**]  04:29 AM
   WBC
   19.0
   Hct
   39.3
   Plt
   272
   Cr
   1.2
   Glucose
   124
   Other labs: CK / CKMB / Troponin-T:7946/493/, Differential-Neuts:90.0
   %, Lymph:7.2 %, Mono:2.5 %, Eos:0.0 %, Ca++:8.2 mg/dL, Mg++:2.8 mg/dL,
   PO4:2.0 mg/dL
   Assessment and Plan
   30 YOM with no pmh p/w CP in the setting of cocaine and etoh use, s/p
   cardiac arrest and resus.
   .
   # CORONARIES:  LAD thrombus was noted on cath, likely [**2-4**] cocaine
   induced vessel spasms.  resolved after cath and intervention, no stents
   were placed. given no risk factors in the family or his pmh, plaque
   rupture is a less likely alternative.
   - cont. ASA, integrillin gtt
   - on statin high dose and check lipids and hgA1C in am
   - no BB, given cocaine use.
   .
   # PUMP:  unknown baseline LV function.  Patient was euvolemic on
   admission exam. cardiac function [**Last Name (un) **] currently will need to reassess
   with echo and records.
   - trend CE
   - holding off BB
   - consider ACEI if EF < 40%
   - echo in am
   .
   # RHYTHM:  currently in sinus, prior arrythmia is likely [**2-4**] cocaine
   induced vessel spasm vs thrombus induced ischemia vs electrolyte
   abnormalities.
   - on tele, continue to monitor
   - recieved phentolamine.
   - mg, k and ca repletion prn
   .
   # alcohol/substance use: unsure of the severity of his use, will take
   precaution on treating/monitoring for withdraw
   - on ciwa scale, monitor mental status
   - s/w consult on substance abuse.
   .
   FEN:  replete lytes, K>4, mg > 2
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with heparin gtt.
   -Pain management with morphine.
   -Bowel regimen with senna, docusate.
   .
   CODE: Presumed full
   .
   COMM:  Mother - [**Name (NI) 63**] [**Numeric Identifier 11695**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2109-11-24**] 05:12 AM
   20 Gauge - [**2109-11-24**] 05:13 AM
   Sheath - [**2109-11-24**] 05:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   Large anterior MI secondary to cocaine use. Also family history of
   hypercoaguable state.
   Hypotension now but alert and urine output adequate. Hold ACE inhibitor
   and beta blocker due to hypotension. Beta blockers may be
   contraindicated until can verify potential for additiinal cocaine use.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2075**], MD
   on:[**2109-11-24**] 12:09 PM ------

2109-11-25 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   A-line placed-Maps in 60-70's all day
   Resisted foley all day, had to stand to urinate with condom cath,
   finally got foley
   De-Sat'd, CXR looked like flash, sats improved with non-invasive
   ventilation/non-rebreather
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 900 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2109-11-24**] 09:30 AM
   Pantoprazole (Protonix) - [**2109-11-24**] 05:30 PM
   Furosemide (Lasix) - [**2109-11-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-25**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100
   HR: 98 (92 - 109) bpm
   BP: 91/58(69) {80/51(62) - 97/67(76)} mmHg
   RR: 26 (22 - 33) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  4,381 mL
                                                                    377 mL
   PO:
                                                                    840 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  3,541 mL
                                                                    137 mL
   Blood products:
   Total out:
                                                                  1,040 mL
                                                                    465 mL
   Urine:
                                                                    840 mL
                                                                    465 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  3,341 mL
                                                                    -88 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 878 (878 - 878) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: 7.47/32/64/21/0
   Ve: 12.4 L/min
   PaO2 / FiO2: 128
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   263 K/uL
   13.7 g/dL
   109 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.3 mEq/L
   16 mg/dL
   107 mEq/L
   139 mEq/L
   41
   19.0 K/uL
        [image002.jpg]
                            [**2109-11-24**]  04:29 AM
                            [**2109-11-24**]  08:11 AM
                            [**2109-11-24**]  02:47 PM
                            [**2109-11-24**]  03:59 PM
                            [**2109-11-24**]  05:34 PM
                            [**2109-11-24**]  09:57 PM
                            [**2109-11-25**]  07:02 AM
   WBC
   19.0
   Hct
   39.3
   42.0
   40.1
   41
   Plt
   272
   263
   Cr
   1.2
   1.1
   TropT
   22.18
   TCO2
   22
   23
   22
   24
   Glucose
   124
   109
   Other labs: PT / PTT / INR:/98.4/, CK / CKMB /
   Troponin-T:8667/315/22.18, ALT / AST:128/811, Alk Phos / T Bili:46/1.4,
   Differential-Neuts:90.0 %, Lymph:7.2 %, Mono:2.5 %, Eos:0.0 %, Lactic
   Acid:0.9 mmol/L, Albumin:4.1 g/dL, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   30 YOM with no pmh p/w CP in the setting of cocaine and etoh use, s/p
   cardiac arrest and resus.
   .
   # CORONARIES:  LAD thrombus was noted on cath, likely [**2-4**] cocaine
   induced vessel spasms.  resolved after cath and intervention, no stents
   were placed. given no risk factors in the family or his pmh, plaque
   rupture is a less likely alternative.
   - cont. ASA, integrillin gtt
   - on statin high dose and check lipids and hgA1C in am
   - no BB, given cocaine use.
   .
   # PUMP:  unknown baseline LV function.  Patient was euvolemic on
   admission exam. cardiac function [**Last Name (un) **] currently will need to reassess
   with echo and records.
   - trend CE
   - holding off BB
   - consider ACEI if EF < 40%
   - echo in am
   .
   # RHYTHM:  currently in sinus, prior arrythmia is likely [**2-4**] cocaine
   induced vessel spasm vs thrombus induced ischemia vs electrolyte
   abnormalities.
   - on tele, continue to monitor
   - recieved phentolamine.
   - mg, k and ca repletion prn
   .
   # alcohol/substance use: unsure of the severity of his use, will take
   precaution on treating/monitoring for withdraw
   - on ciwa scale, monitor mental status
   - s/w consult on substance abuse.
   .
   FEN:  replete lytes, K>4, mg > 2
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with heparin gtt.
   -Pain management with morphine.
   -Bowel regimen with senna, docusate.
   .
   CODE: Presumed full
   .
   COMM:  Mother - [**Name (NI) 63**] [**Numeric Identifier 11695**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-11-24**] 05:13 AM
   18 Gauge - [**2109-11-24**] 04:00 PM
   Arterial Line - [**2109-11-24**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2109-11-25 08:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   GI consulted
 PPI, no other intervention
   A-line placed-Maps in 60-70's all day
   Resisted foley all day, had to stand to urinate with condom cath,
   finally got foley
   De-Sat'd, CXR looked like flash, sats improved with non-invasive
   ventilation/non-rebreather
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 900 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2109-11-24**] 09:30 AM
   Pantoprazole (Protonix) - [**2109-11-24**] 05:30 PM
   Furosemide (Lasix) - [**2109-11-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-25**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100
   HR: 98 (92 - 109) bpm
   BP: 91/58(69) {80/51(62) - 97/67(76)} mmHg
   RR: 26 (22 - 33) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  4,381 mL
                                                                    388 mL
   PO:
                                                                    840 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  3,541 mL
                                                                    148 mL
   Blood products:
   Total out:
                                                                  1,040 mL
                                                                    465 mL
   Urine:
                                                                    840 mL
                                                                    465 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  3,341 mL
                                                                    -77 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 878 (878 - 878) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: 7.47/32/64/21/0
   Ve: 12.4 L/min
   PaO2 / FiO2: 128
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   213 K/uL
   12.5 g/dL
   109 mg/dL
   1.1 mg/dL
   21 mEq/L
   4.3 mEq/L
   16 mg/dL
   107 mEq/L
   139 mEq/L
   34.8 %
   13.2 K/uL
        [image002.jpg]
                            [**2109-11-24**]  04:29 AM
                            [**2109-11-24**]  08:11 AM
                            [**2109-11-24**]  02:47 PM
                            [**2109-11-24**]  03:59 PM
                            [**2109-11-24**]  05:34 PM
                            [**2109-11-24**]  09:57 PM
                            [**2109-11-25**]  06:43 AM
                            [**2109-11-25**]  07:02 AM
   WBC
   19.0
   13.2
   Hct
   39.3
   42.0
   40.1
   41
   34.8
   Plt
   272
   263
   213
   Cr
   1.2
   1.1
   TropT
   22.18
   TCO2
   22
   23
   22
   24
   Glucose
   124
   109
   Other labs: PT / PTT / INR:13.9/65.0/1.2, CK / CKMB /
   Troponin-T:8667/315/22.18, ALT / AST:128/811, Alk Phos / T Bili:46/1.4,
   Differential-Neuts:90.0 %, Lymph:7.2 %, Mono:2.5 %, Eos:0.0 %, Lactic
   Acid:0.9 mmol/L, Albumin:4.1 g/dL, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   30 YOM with no pmh p/w CP in the setting of cocaine and etoh use, s/p
   cardiac arrest and resus.
   .
   # CORONARIES:  LAD thrombus was noted on cath, likely [**2-4**] cocaine
   induced vessel spasms with thrombus.  resolved after cath and
   intervention, no stents were placed. given no risk factors in the
   family or his pmh, plaque rupture is a less likely alternative.
   - cont. ASA, heparin gtt
   - on high dose statin and check lipids and HgbA1C in am
   - no BB, given cocaine use.
   - f/u EKG
   .
   # PUMP:  PA systolic elevated on cath.  Patient was euvolemic on
   admission exam. cardiac function unknown currently will need to
   reassess with echo and records.  Patient appears to have flashed with
   minimal fluid challenge, currently diuresing gently with 10mg IV lasix
   boluses, given poor systolic pressures.
   - trend CE
 CK peaked at >500
   - f/u echo this AM for better understanding of cardiac function (prelim
   no catastrophic MR, EF roughly 20%)
   - holding off BB given cocaine use
   - consider ACEI if EF < 40%
   - place Swan-Ganz catheter, begin inotropic support and possible
   afterload reduction with ACEI
   .
   # RHYTHM:  currently in sinus, prior arrythmia is likely [**2-4**] cocaine
   induced vessel spasm vs thrombus induced ischemia vs electrolyte
   abnormalities.
   - on tele, continue to monitor
   - in and out of sinus tach
   - recieved phentolamine.
   - mg, k and ca repletion prn
   .
   # alcohol/substance use: unsure of the severity of his use, will take
   precaution on treating/monitoring for withdraw
   - on ciwa scale, monitor mental status
   - s/w consult on substance abuse.
   .
   # Hematemesis
 s/p 2 episodes likely culprits ETOH Gastritis vs.
   [**Doctor First Name 241**]- [**Doctor Last Name 37**]
   -          GI aware
 PPI, Follow
   -          Trend HCT q6h
   .
   #Respiratory [**Name (NI) 11733**] Pt with elevated PASP, appears to have flashed
   with just over 1 L IVF yesterday
   -          currently on non-re-breather.  Has tolerated non-invasive,
   and NC at 6L with shovel mask
   -          Will diurese gently and intermittently to a goal of -500-1L
   as pressures tolerate
   -          Will assess squeeze with echo, hemos with swan, and eval for
   ?milrinone
   .
   # Conjunctival hemorrhage
 Seen by optho, who was unimpressed.
   Thought that these were conjunctival hemorrhages, bullous and simple.
   -          continue bacitracin ointment QID
   -          Patch PRN for diplopia
   FEN:  replete lytes, K > 4, Mg > 2
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with heparin gtt.
   -Pain management with morphine.
   -Bowel regimen with senna, docusate.
   .
   CODE: Presumed full
   .
   COMM:  Mother - [**Name (NI) 63**] [**Numeric Identifier 11695**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-11-24**] 05:13 AM
   18 Gauge - [**2109-11-24**] 04:00 PM
   Arterial Line - [**2109-11-24**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Respiratory distress:
    Given R>L appearance, aspiration is certainly possible.  We will cover
   with vanc and flagyl for now
   - f/u sputum cx
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 11097**], MD
   on:[**2109-11-25**] 10:00 ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Reviewed events over night. Increased oxygen requirement and pulmonary
   vascular congestion by CXR. Poor response to diuresis. MAP approx 60.
   Physical Examination
   JVP flat; Mild tachpnea.
   Bilateral crackles;
   + gallop. No rub.
   Medical Decision Making
   Day 2 post large anterior MI complicated by pulmonary edema,
   hypotension,  and low uring output.
   RHC performed (see full report) showing uppe rnormal SVR (1200) and low
   cardiac index (2.0) with PCWP 24 and RA [**7-12**].
   Plan:
   Hemodynamic monitoring;  Low dose captopril with careful following of
   outputs and SVR; [**Month (only) 51**] need inotropic pharmacologic or mechanical support
   if becomes more unstable. Goal even I/Os based on target PCW 16-20.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2075**], MD
   on:[**2109-11-25**] 18:54 ------
   Critical care 60 minutes for bedside monitoring or hemodynamic and
   heart failure status.  E and M services above and beyond procedural
   services of RHC.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2075**], MD
   on:[**2109-11-25**] 07:22 PM ------

2109-11-26 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PA CATHETER - START [**2109-11-25**] 10:50 AM
 ARTERIAL LINE - STOP [**2109-11-25**] 10:16 PM
 FEVER - 102.2
C - [**2109-11-26**] 05:00 AM
   - pulled A-line as it wasn't giving accurate measurements and couldn't
   be drawn from
   - captopril started for afterload reduction
   - TTE: EF 20-25%
   - lasix 10 mg IV x 1 given at night (bolus str limited by SBP)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 700 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2109-11-25**] 11:44 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-26**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.3
C (100.9
   HR: 110 (90 - 112) bpm
   BP: 93/59(66) {74/42(52) - 94/63(69)} mmHg
   RR: 23 (17 - 29) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.7 kg (admission): 90 kg
   Height: 72 Inch
    CVP: 7 (-1 - 8)mmHg
   PAP: (40 mmHg) / (25 mmHg)
   PCWP: 21 (17 - 21) mmHg
   CO/CI (Fick): (4.5 L/min) / (2.1 L/min/m2)
   Mixed Venous O2% Sat: 53 - 64
   Total In:
                                                                  1,308 mL
                                                                    305 mL
   PO:
                                                                    840 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    468 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                  1,243 mL
                                                                    710 mL
   Urine:
                                                                  1,243 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     65 mL
                                                                   -405 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 92%
   ABG: 7.45/35/86.[**Numeric Identifier 143**]/25/0
   PaO2 / FiO2: 87
   Physical Examination
   GEN: NAD, Tachypneic, on non-rebreather, comfortable
   CV: RRR s mrg.  No appreciable JVD.
   RESP: diffuse rales [**2-5**] of the way up bilaterally, tight lung fields
   throughout with limited air movement
   ABD: +BS, S, NT/ND
   EXT: cool, 1+ pulses, no c/c/e
   Labs / Radiology
   174 K/uL
   11.6 g/dL
   101 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.0 mEq/L
   17 mg/dL
   107 mEq/L
   139 mEq/L
   32.8 %
   11.8 K/uL
        [image002.jpg]
                            [**2109-11-24**]  03:59 PM
                            [**2109-11-24**]  05:34 PM
                            [**2109-11-24**]  09:57 PM
                            [**2109-11-25**]  06:43 AM
                            [**2109-11-25**]  07:02 AM
                            [**2109-11-25**]  11:07 AM
                            [**2109-11-25**]  01:46 PM
                            [**2109-11-25**]  03:33 PM
                            [**2109-11-25**]  08:26 PM
                            [**2109-11-26**]  01:54 AM
   WBC
   13.2
   11.8
   Hct
   40.1
   41
   34.8
   35.1
   35.6
   32.8
   Plt
   [**Telephone/Fax (3) 11746**]
   Cr
   1.1
   1.2
   1.2
   1.2
   1.3
   TropT
   12.07
   TCO2
   23
   22
   24
   25
   Glucose
   109
   105
   101
   101
   Other labs: PT / PTT / INR:14.6/50.4/1.3, CK / CKMB /
   Troponin-T:4898/11/12.07, ALT / AST:66/221, Alk Phos / T Bili:41/1.4,
   Differential-Neuts:90.0 %, Lymph:7.2 %, Mono:2.5 %, Eos:0.0 %, Lactic
   Acid:0.9 mmol/L, Albumin:4.1 g/dL, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
   30 YOM with no pmh p/w CP in the setting of cocaine and etoh use, s/p
   cardiac arrest and resus.
   .
   # CORONARIES:  LAD thrombus was noted on cath, likely [**2-4**] cocaine
   induced vessel spasms with thrombus.  resolved after cath and
   intervention, no stents were placed. given no risk factors in the
   family or his pmh, plaque rupture is a less likely alternative.
   - cont. ASA, Plavix
   - on high dose statin and check lipids and HgbA1C in am
   - no BB, given cocaine use.
   - CE peaked, now downtrending
   - f/u EKG
   .
   # PUMP:  TTE EF 25% with apical/anterior AK and distal inferior AK, c/w
   territory of infarct.
   - on heparin gtt for apical/anterior AK, if patient stabilizes and no
   need for LVAD, may consider bridging to warfarin (will need AC for [**3-8**]
   mos.)
   - trend CE
 CK peaked at >500
   - holding off BB given cocaine use
   - uptitrate captopril as tolerated, changing lasix bolus to lasix gtt
   to maintain UOP
   - if worsening in LV function, consider LVAD.
   .
   # RHYTHM:  currently in sinus, prior arrhythmia is likely [**2-4**] cocaine
   induced vessel spasm vs thrombus induced ischemia vs electrolyte
   abnormalities.
   - on tele, continue to monitor
   - in and out of sinus tach
   - recieved phentolamine.
   - mg, k and ca repletion prn
   - per MADIT II, may benefit from ICD placement in future
   .
   # Respiratory [**Name (NI) 11733**] Pt with elevated PASP, appears to have flashed
   with just over 1 L IVF yesterday
   - currently on non-re-breather.  Has tolerated non-invasive, and NC at
   6L with shovel mask
   - covering with levo/flagyl for possible aspiration event, although no
   discrete lobar infiltrate noted on CXR
   - f/u cxr
   - Will diurese gently and intermittently to a goal of -500-1L as
   pressures tolerate
   .
   #fever/leukocytosis: question if this is related to MI/infection.
   - tylenol prn
   - fever curve
   - f/u cx
   .
   # alcohol/substance use: unsure of the severity of his use, will take
   precaution on treating/monitoring for withdraw
   - on ciwa scale, monitor mental status
   - s/w consult on substance abuse.
   .
   # Hematemesis
 s/p 2 episodes likely culprits ETOH Gastritis vs.
   [**Doctor First Name 241**]- [**Doctor Last Name 37**]
   - GI aware
 PPI, Follow
   - Trend HCT q6h
   .
   # Conjunctival hemorrhage
 Seen by optho, who was unimpressed.
   Thought that these were conjunctival hemorrhages, bullous and simple.
   - continue bacitracin ointment QID
   - Patch PRN for diplopia
   FEN:  replete lytes, K > 4, Mg > 2
   .
   ACCESS: PIV, Cordis/Swan in RIJ
   .
   PROPHYLAXIS:
   -DVT ppx with heparin gtt.
   -Pain management with morphine.
   -Bowel regimen with senna, docusate.
   .
   CODE: Presumed full
   .
   COMM:  Mother - [**Name (NI) 63**] [**Numeric Identifier 11695**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-11-24**] 05:13 AM
   18 Gauge - [**2109-11-24**] 04:00 PM
   PA Catheter - [**2109-11-25**] 10:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Have reviewed events over past 24 hours. No chest pain. Breathing more
   comfortable. Has tolerated slow upward titration of ACE inhibitors with
   continuous hemodynamic monitoring.
   Physical Examination
   As recorded. No murmur or rub heard. S4.
   Medical Decision Making
   day 3 post large anterior MI complicated by cardiogenic shock. Ongoing
   pulmonary vascular congestion. SVRand CO  improved with ACE
   inhibititor.  Should be able to tolerate slightly more aggressive
   diuresis. Will plan fursemide drip with goal of PCWP 14-16. Titrate
   captopril to 18.75 mg if SVR >800.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2075**], MD
   on:[**2109-11-26**] 13:12 ------
   Critical Care 30 minutes: Patient examined on 3 occasions for acute
   hemodynamic  management.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2075**], MD
   on:[**2109-11-26**] 07:31 PM ------

2109-11-27 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   no events
   increased captopril to 18.75mg TID
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Heparin Sodium - 900 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2109-11-26**] 09:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-27**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.8
C (100
   HR: 89 (85 - 112) bpm
   BP: 90/53(62) {83/45(54) - 95/66(71)} mmHg
   RR: 20 (16 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.4 kg (admission): 90 kg
   Height: 72 Inch
    CVP: 4 (2 - 10)mmHg
   PAP: (42 mmHg) / (20 mmHg)
   PCWP: 14 (14 - 16) mmHg
   CO/CI (Fick): (6.9 L/min) / (3.3 L/min/m2)
   Mixed Venous O2% Sat: 55 - 69
   SVR 589
   Total In:
                                                                  1,658 mL
                                                                    392 mL
   PO:
                                                                    770 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    888 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  2,945 mL
                                                                    570 mL
   Urine:
                                                                  2,945 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,287 mL
                                                                   -178 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   Labs / Radiology
   156 K/uL
   11.2 g/dL
   104 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.5 mEq/L
   13 mg/dL
   101 mEq/L
   137 mEq/L
   35
   9.5 K/uL
        [image002.jpg]
                            [**2109-11-26**]  01:54 AM
                            [**2109-11-26**]  08:10 AM
                            [**2109-11-26**]  12:18 PM
                            [**2109-11-26**]  03:02 PM
                            [**2109-11-26**]  03:23 PM
                            [**2109-11-26**]  07:01 PM
                            [**2109-11-26**]  11:07 PM
                            [**2109-11-26**]  11:19 PM
                            [**2109-11-27**]  05:35 AM
                            [**2109-11-27**]  05:48 AM
   WBC
   11.8
   12.2
   9.5
   Hct
   32.8
   32.9
   33
   31.8
   32
   35
   33.5
   37
   32.0
   35
   Plt
   174
   185
   156
   Cr
   1.3
   1.3
   1.2
   Glucose
   101
   88
   104
   Other labs: PT / PTT / INR:14.6/53.1/1.3, CK / CKMB /
   Troponin-T:9696/6/12.07, ALT / AST:66/221, Alk Phos / T Bili:41/1.4,
   Differential-Neuts:90.0 %, Lymph:7.2 %, Mono:2.5 %, Eos:0.0 %, Lactic
   Acid:0.9 mmol/L, Albumin:4.1 g/dL, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.5 mg/dL
   Assessment and Plan
   30 YOM with no pmh p/w CP in the setting of cocaine and etoh use, s/p
   cardiac arrest and resus.
   .
   # CORONARIES:  LAD thrombus was noted on cath, likely [**2-4**] cocaine
   induced vessel spasms with thrombus.  resolved after cath and
   intervention, no stents were placed. given no risk factors in the
   family or his pmh, plaque rupture is a less likely alternative.
   - cont. ASA, Plavix
   - on high dose statin and check lipids and HgbA1C in am
 follow CKs
   - no BB, given cocaine use.
   - CE peaked, now downtrending
   - f/u EKG
   .
   # PUMP:  TTE EF 25% with apical/anterior AK and distal inferior AK, c/w
   territory of infarct.
   - on heparin gtt for apical/anterior AK, if patient stabilizes and no
   need for LVAD, may consider bridging to warfarin (will need AC for [**3-8**]
   mos.) CI increased with decreased SVR.
   - trend CE
 CK-MB peaked at >500
   - Cocaine window passed, starting toprol very low dose today.
   - captopril changed to 10 of lisinopril
   - Epleronone added by Ephesus criteria
   - if worsening in LV function, consider LVAD.
    .
   # RHYTHM:  currently in sinus, prior arrhythmia is likely [**2-4**] cocaine
   induced vessel spasm vs thrombus induced ischemia vs electrolyte
   abnormalities.
   - starting low dose toprol today
   - on tele, continue to monitor
   - in and out of sinus tach
   - recieved phentolamine.
   - mg, k and ca repletion prn
   - per MADIT II, may benefit from ICD placement in future
   .
   # Respiratory [**Name (NI) 11733**] Pt with elevated PASP, appears to have flashed
   with just over 1 L IVF yesterday
   - currently on non-re-breather.  Has tolerated non-invasive, and NC at
   6L with shovel mask
   - covering with levo/flagyl for possible aspiration event, although no
   discrete lobar infiltrate noted on CXR
   - f/u cxr
   - Will diurese gently and intermittently (40mg [**Hospital1 7**]) to a goal of
   -500-1L as pressures tolerate
   .
   #fever/leukocytosis: question if this is related to MI/infection.
   - tylenol prn
   - fever curve
   - f/u cx
   - aspiration dosed abx
   # Elevated CK
 likely muscular source given MB fall and CK rise, too
   early for statin induced myositis.  Suspect reperfusion of muscle
   injured in resuscitation now that SVR is  much lower
   -          UA checked for evidence of rhabdo - pending
   -          Trend CK
   .
   # alcohol/substance use: unsure of the severity of his use, will take
   precaution on treating/monitoring for withdraw
   - off ciwa scale, monitor mental status
   - s/w consult on substance abuse.
   - Ativan PRN for agitation
   .
   # Hematemesis
 s/p 2 episodes likely culprits ETOH Gastritis vs.
   [**Doctor First Name 241**]- [**Doctor Last Name 37**]
   - GI aware
 PPI, Follow
   - Trend HCT
   - PPI changed to [**Hospital1 7**]
   .
   # Conjunctival hemorrhage
 Seen by optho, who was unimpressed.
   Thought that these were conjunctival hemorrhages, bullous and simple.
   - continue bacitracin ointment QID
   - Patch PRN for diplopia
   FEN:  replete lytes, K > 4, Mg > 2
   .
   ACCESS: PIV, Cordis/Swan in RIJ
   .
   PROPHYLAXIS:
   -DVT ppx with heparin gtt.
   -Pain management with morphine.
   -Bowel regimen with senna, docusate.
   .
   CODE: Presumed full
   .
   COMM:  Mother - [**Name (NI) 63**] [**Numeric Identifier 11695**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-11-24**] 05:13 AM
   18 Gauge - [**2109-11-24**] 04:00 PM
   PA Catheter - [**2109-11-25**] 10:50 AM
   Cordis/Introducer - [**2109-11-26**] 12:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Feeling better.
   Physical Examination
   + S3 on exam. No rub or murmur.
   Medical Decision Making
   Hemodynamics improving and good diuresis in response to furosemide.
   Resting tachycardia persist.  Will try to begin low dose metoprolol and
   change ACE inhibitor to lisinopril 10 mg daily.  Discontinue PA
   catheter and out of bed today.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2075**], MD
   on:[**2109-11-27**] 16:36 ------

2109-11-28 08:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CORDIS/INTRODUCER - STOP [**2109-11-27**] 04:22 PM
 PA CATHETER - STOP [**2109-11-27**] 04:25 PM
   - patient tolerated Lovenox SC poorly, pain from injection site, vagal
   event
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2109-11-27**] 10:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-28**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 35.9
C (96.6
   HR: 95 (89 - 109) bpm
   BP: 89/60(66) {64/38(45) - 99/85(90)} mmHg
   RR: 21 (18 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.4 kg (admission): 90 kg
   Height: 72 Inch
    CVP: 5 (4 - 6)mmHg
   PAP: (45 mmHg) / (25 mmHg)
   CO/CI (Fick): (5.9 L/min) / (2.8 L/min/m2)
   Mixed Venous O2% Sat: 51 - 64
   Total In:
                                                                  1,261 mL
                                                                    360 mL
   PO:
                                                                    940 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    321 mL
   Blood products:
   Total out:
                                                                  1,715 mL
                                                                    790 mL
   Urine:
                                                                  1,715 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -454 mL
                                                                   -430 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 96%
   ABG: ////
   Physical Examination
   ABD: diffuse nonfocal discomfort to palpation
   EXT: no appreciable hematoma, 2+ distal pulses
   Labs / Radiology
   217 K/uL
   11.5 g/dL
   104 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.9 mEq/L
   14 mg/dL
   101 mEq/L
   136 mEq/L
   31.7 %
   10.3 K/uL
        [image002.jpg]
                            [**2109-11-26**]  12:18 PM
                            [**2109-11-26**]  03:02 PM
                            [**2109-11-26**]  03:23 PM
                            [**2109-11-26**]  07:01 PM
                            [**2109-11-26**]  11:07 PM
                            [**2109-11-26**]  11:19 PM
                            [**2109-11-27**]  05:35 AM
                            [**2109-11-27**]  05:48 AM
                            [**2109-11-27**]  03:51 PM
                            [**2109-11-28**]  06:29 AM
   WBC
   9.5
   10.3
   Hct
   33
   31.8
   32
   35
   33.5
   37
   32.0
   35
   33.4
   31.7
   Plt
   156
   217
   Cr
   1.3
   1.2
   1.2
   Glucose
   88
   104
   Other labs: PT / PTT / INR:15.6/38.0/1.4, CK / CKMB /
   Troponin-T:[**Numeric Identifier 11782**]/5/12.07, ALT / AST:66/221, Alk Phos / T Bili:41/1.4,
   Differential-Neuts:90.0 %, Lymph:7.2 %, Mono:2.5 %, Eos:0.0 %, Lactic
   Acid:0.9 mmol/L, Albumin:4.1 g/dL, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.5 mg/dL
   Assessment and Plan
   30 YOM with no pmh p/w CP in the setting of cocaine and etoh use, s/p
   cardiac arrest and resus.
   .
   # CORONARIES:  LAD thrombus was noted on cath, likely [**2-4**] cocaine
   induced vessel spasms with thrombus.  resolved after cath and
   intervention, no stents were placed. given no risk factors in the
   family or his pmh, plaque rupture is a less likely alternative.
   - cont. ASA, Plavix
   - on high dose statin and check lipids and HgbA1C in am
 follow CKs
   - low dose BB started, continue ACEI
   - CE peaked, now downtrending
   - f/u EKG
   .
   # PUMP:  TTE EF 25% with apical/anterior AK and distal inferior AK, c/w
   territory of infarct.
   - was started on Lovenox yesterday, but as patient did not tolerate,
   will switch back to heparin gtt
   - on AC for apical/anterior AK, if patient stabilizes and no need for
   LVAD, bridging to warfarin (will need AC for [**3-8**] mos.) CI increased
   with decreased SVR.
   - continue warfarin
   - continue BB, uptitrate ACEI to lisinopril 12.5 mg/d
   - Epleronone added by Ephesus criteria
   - continue IV lasix
    .
   # RHYTHM:  currently in sinus, prior arrhythmia is likely [**2-4**] cocaine
   induced vessel spasm vs thrombus induced ischemia vs electrolyte
   abnormalities.
   - continue low dose toprol
   - on tele, continue to monitor
   - in and out of sinus tach
   - recieved phentolamine.
   - mg, k and ca repletion prn
   - per MADIT II, may benefit from ICD placement in future
   .
   # Respiratory [**Name (NI) 11733**] Pt with elevated PASP, appears to have flashed
   with just over 1 L IVF. Has been breathing comfortably for the last
   day.
   - currently on low volume O2 mask
   - covering with levo/flagyl for possible aspiration event, although no
   discrete lobar infiltrate noted on CXR
   - f/u cxr
   - Will diurese gently and intermittently (40mg [**Hospital1 7**]) to a goal of
   -500-1L as pressures tolerate
   .
   # fever/leukocytosis: question if this is related to MI/infection.
   - tylenol prn
   - fever curve
   - f/u cx
   - aspiration dosed abx
   # Elevated CK
 likely muscular source given MB fall and CK rise, too
   early for statin induced myositis.  Suspect reperfusion of muscle
   injured in resuscitation now that SVR is  much lower
   -          UA checked for evidence of rhabdo
   -          Trend CK; currently downtrending
   .
   # alcohol/substance use: unsure of the severity of his use, will take
   precaution on treating/monitoring for withdraw
   - off ciwa scale, monitor mental status
   - s/w consult on substance abuse.
   - Ativan PRN for agitation
   - MVI, folate, thiamine
   .
   # Hematemesis
 s/p 2 episodes likely culprits ETOH Gastritis vs.
   [**Doctor First Name 241**]- [**Doctor Last Name 37**]
   - GI aware
 PPI, Follow
   - Trend HCT
   - PPI changed to [**Hospital1 7**]
   .
   # Conjunctival hemorrhage
 Seen by optho, who was unimpressed.
   Thought that these were conjunctival hemorrhages, bullous and simple.
   - continue bacitracin ointment QID
   - Patch PRN for diplopia
   FEN:  replete lytes, K > 4, Mg > 2
   .
   ACCESS: PIV, Cordis/Swan in RIJ
   .
   PROPHYLAXIS:
   -DVT ppx with heparin gtt.
   -Pain management with morphine.
   -Bowel regimen with senna, docusate.
   .
   CODE: Presumed full
   .
   COMM:  Mother - [**Name (NI) 63**] [**Numeric Identifier 11695**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-11-27**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   feels well. Events reviewed with CCU team. Probable vagal response
   after sub q lovenox.
   Physical Examination
   JVP not elevated; Few crackles right base. + S3
   Medical Decision Making
   Steady trend for improvement. Will increase lisinopril to 12.5 today.
   Continue very low dose metoprolol succinate (6.25 mg) and may increase
   tomorrow.  Continue gentle diuresis.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2075**], MD
   on:[**2109-11-28**] 12:54 ------

2109-11-29 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - incr lisinopril to 12.5mg daily
   - switched lovenox back to heparin gtt
   - weaned off O2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-11-29**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.8
C (98.2
   HR: 79 (79 - 106) bpm
   BP: 90/60(68) {81/48(56) - 104/76(82)} mmHg
   RR: 16 (12 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.8 kg (admission): 90 kg
   Height: 72 Inch
             Total In:
                                                                  1,499 mL
                                                                    263 mL
   PO:
                                                                  1,370 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    129 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  2,305 mL
                                                                    575 mL
   Urine:
                                                                  2,305 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -806 mL
                                                                   -312 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   Neck: no JVD
   CHEST: mild bibasilar crackles
   EXT: no appreciable hematoma, 2+ distal pulses
   Labs / Radiology
   250 K/uL
   11.9 g/dL
   98 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.1 mEq/L
   19 mg/dL
   102 mEq/L
   137 mEq/L
   34.4 %
   10.0 K/uL
        [image002.jpg]
                            [**2109-11-26**]  03:23 PM
                            [**2109-11-26**]  07:01 PM
                            [**2109-11-26**]  11:07 PM
                            [**2109-11-26**]  11:19 PM
                            [**2109-11-27**]  05:35 AM
                            [**2109-11-27**]  05:48 AM
                            [**2109-11-27**]  03:51 PM
                            [**2109-11-28**]  06:29 AM
                            [**2109-11-28**]  06:18 PM
                            [**2109-11-29**]  06:04 AM
   WBC
   9.5
   10.3
   10.0
   Hct
   32
   35
   33.5
   37
   32.0
   35
   33.4
   31.7
   34.4
   Plt
   156
   217
   250
   Cr
   1.2
   1.2
   1.1
   1.0
   1.0
   Glucose
   104
   92
   98
   Other labs: PT / PTT / INR:18.2/52.4/1.6, CK / CKMB /
   Troponin-T:5435/5/12.07, ALT / AST:48/133, Alk Phos / T Bili:37/0.8,
   Differential-Neuts:90.0 %, Lymph:7.2 %, Mono:2.5 %, Eos:0.0 %, Lactic
   Acid:0.9 mmol/L, Albumin:4.1 g/dL, LDH:1103 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   30 YOM with no pmh p/w CP in the setting of cocaine and etoh use, s/p
   cardiac arrest and resus.
   .
   # CORONARIES:  LAD thrombus was noted on cath, likely [**2-4**] cocaine
   induced vessel spasms with thrombus.  resolved after cath and
   intervention, no stents were placed. given no risk factors in the
   family or his pmh, plaque rupture is a less likely alternative.
   - cont. ASA, Plavix
   - on high dose statin
 follow CKs, currently downtrending, HbA1C 5.2,
   chol 153, TG 61, HDL 31, LDL 109
   - continue ACEi
   - Toprol 6.25mg daily, add 6.25mg daily this PM
 consider 12.5mg PO
   daily tomorrow if BP stable
   - CE peaked, now downtrending
   .
   # PUMP:  TTE EF 25% with apical/anterior AK and distal inferior AK, c/w
   territory of infarct.
   - continue heparin gtt
   - on AC for apical/anterior AK, if patient stabilizes and no need for
   LVAD, bridging to warfarin (will need AC for [**3-8**] mos.) CI increased
   with decreased SVR.
   - continue warfarin
   - continue BB, ACEi
   - Epleronone added by Ephesus criteria
   - switch IV Lasix to 20mg PO daily, monitor I/Os
    .
   # RHYTHM:  currently in sinus, prior arrhythmia is likely [**2-4**] cocaine
   induced vessel spasm vs thrombus induced ischemia vs electrolyte
   abnormalities.
   - continue low dose toprol
   - on tele, continue to monitor
   - in and out of sinus tach
   - received phentolamine.
   - mg, k and ca repletion prn
   - per MADIT II, may benefit from ICD placement in future
   .
   # Respiratory [**Name (NI) 11733**] Pt with elevated PASP, appears to have flashed
   with just over 1 L IVF. Has been breathing comfortably.
   - weaning off O2
   - covering with levo/flagyl for possible aspiration event, although no
   discrete lobar infiltrate noted on CXR
   - f/u cxr
   - appears euvolemic. Lasix decreased to 20mg PO daily
   .
   # fever/leukocytosis: question if this is related to MI/infection.
   - tylenol prn
   - fever curve
   - f/u cx
   - aspiration dosed abx
   # Elevated CK
 likely muscular source given MB fall and CK rise, too
   early for statin induced myositis.  Suspect reperfusion of muscle
   injured in resuscitation now that SVR is  much lower
   -          UA checked for evidence of rhabdo
   -          Trend CK; currently downtrending
   .
   # alcohol/substance use: unsure of the severity of his use, will take
   precaution on treating/monitoring for withdraw
   - off ciwa scale, monitor mental status
   - s/w consult on substance abuse.
   - Ativan PRN for agitation
   - MVI, folate, thiamine
   .
   # Hematemesis
 s/p 2 episodes likely culprits ETOH Gastritis vs.
   [**Doctor First Name 241**]- [**Doctor Last Name 37**]
   - GI aware
 PPI, Follow
   - Trend HCT
   - PPI changed to [**Hospital1 7**]
   .
   # Conjunctival hemorrhage
 Seen by optho, who was unimpressed.
   Thought that these were conjunctival hemorrhages, bullous and simple.
   - continue bacitracin ointment QID
   - Patch PRN for diplopia
   FEN:  replete lytes, K > 4, Mg > 2
   .
   ACCESS: PIV, Cordis/Swan in RIJ
   .
   PROPHYLAXIS:
   -DVT ppx with heparin gtt.
   -Pain management with morphine.
   -Bowel regimen with senna, docusate.
   .
   CODE: Presumed full
   .
   COMM:  Mother - [**Name (NI) 63**] [**Numeric Identifier 11695**]
   .
   DISPO: call out to floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-11-28**] 08:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   Continued excellent progress. Pulmonary congestion cleared. BP stable
   with systolic in 90s. Continue Lisinopril 12.5 today. Plan add 6.25 mg
   metoprolol later today.  Transfer to floow on telemetry. Increase
   activity.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2075**], MD
   on:[**2109-11-29**] 11:23 ------